US05962458
Sodium hydride (1.02 g of a 50% suspension in mineral oil, 42 mmol) was added to a solution of 3-hydroxypyridine (2.01 g, 21 mmol) in DMF (50 ml) and the mixture stirred for 30 minutes. 2-(2-Bromoethoxy)tetrahydropyran (4.0 g, 19 mmol), (J. Am. Chem. Soc. 1948, 70, 4187), was added and the mixture heated at 100° C. for 3 hours and then stirred at ambient temperature for 18 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The combined extracts were washed with water, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol mixtures (100/0 increasing to 97/3) to give 3-(2-(tetrahydropyran-2-yloxy)ethoxy)pyridine (2.28 g, 48%).

reactant | Sodium hydride | [H-].[Na+]
reactant | 3-hydroxypyridine | 21 mmol, 2.01 g | OC=1C=NC=CC1 | C5H5NO
reactant | 2-(2-Bromoethoxy)tetrahydropyran | 19 mmol, 4.0 g | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(2-(tetrahydropyran-2-yloxy)ethoxy)pyridine | 2.28 g, 48% | O1C(CCCC1)OCCOC=1C=NC=CC1 | C12H17NO3
